US06444685B1
1-[4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic Acid Methylamide
0.57 g of 1-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid isopropyl ester ( ) was stirred in 20 mL methyl amine (40% wt in water) at 100° C. in a sealed tube for 5 days. The methyl amine was allowed to evaporate and the residual aqueous solution was left to stand overnight uncapped. The following morning, a white precipitate was present, which was collected by vacuum filtration. The precipitate was washed with water and hexanes. The original aqueous solution was then extracted twice with ethyl acetate. The organic layer was then dried over sodium sulfate and concentrated in vacuo to afford more product. 0.31 g of the title compound was collected as a white solid; mp 137-139° C.; 1H NMR (CDCl3) δ 1.52-1.72 (m, 5H), 1.81 (t, J=5.82 Hz, 4H), 2.15-2.20 (m, 1H), 2.86 (d, J=4.95 Hz, 3H), 3.08-3.55 (m, 1H), 3.49-3.55 (m, 4H), 4.00 (s, 4H), 6.89-6.94 (M, 2H), 6.99-7.01 (m, 1H), 7.61-7.73 (m, 2H); MS (ES) m/z 410.0 (MH+); HRMS for C19H27N3O5S: 410.1740.

reactant | 1-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic acid isopropyl ester | 0.57 g | C(C)(C)OC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C21H30N2O6S
reactant | methyl amine | 20 mL | CN | CH5N
product | 1-[4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-benzenesulfonyl]-pyrrolidine-2-carboxylic Acid Methylamide | CNC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C19H27N3O5S
